Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](=[C:2]1[C:3]([H:11])([H:12])[O:4]1)([H:8])[H:9].[C:5](=[O:6])([N:7]([H:13])[H:14])[H:10]>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],80.9181038477203
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[N:6][H:11])[H:7],91.1044166718911
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[C:3](=[C:4]([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10].[H:8][H:13],55.8748502768597
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:9])[H:10].[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:8])([H:11])[H:12],77.2512841556929
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:5](=[C:4])[H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],58.7380047179276
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])[H:12])([H:8])[H:9].[H:10][H:11],68.7501342518877
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C+:2][N:6]([N:5][C:4](=[N-:3])[H:8])[H:9])[H:7],125.652815371867
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:5]([C:4](=[O:3])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],41.5747267751063
[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[O:1]=[C:2]([C:5](=[O:6])[H:12])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],46.51772501651729
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1]1([H:8])[O:5][C@:4]2([H:9])[O+:3]=[C-:2][C@@:6]1([H:10])[O:7]2,118.374112379536
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:4]([H:13])[C:3]1([H:11])[H:12],95.56133678470293
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1](/[C:2](=[C:3](/[C:4]([O:5][C:6](=[O:7])[H:13])([H:10])[H:12])[H:11])[H:9])[H:8],70.21519134691421
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3][C@:4]1([C:5]#[N:6])[H:7],96.26398823634541
[C:1]1([H:8])([H:10])[N:2]([H:11])[C:3]([H:12])([H:13])[C:4]1([O:5][H:9])[O:6][C:7]([H:14])([H:15])[H:16]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],43.1718165280578
[O:1]=[C:2]([C@@:6]1([H:11])[N+:4]([C-:3]([H:7])[H:8])=[C:5]1[H:10])[H:9]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],39.855355790943406
[C:1]([O:2][C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O:2])([H:7])[H:8].[C:3](=[C:4]=[C:5]([H:6])[H:11])([H:9])[H:10],30.3149335740825
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:5][H:17])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:15])[H:16],83.52059567235
[N:1]1([H:8])[C:2]2=[O+:7][N-:6][C:5]([H:11])=[C:4]([H:10])[C@:3]12[H:9]>>[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8],1.8444562123493
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11],68.68392715281611
[C:1]([C:2]([O+:4]=[C:3]([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],13.6620324406651
[O:1]([C:2](=[C:3])[H:7])[C:4]1=[C:5]=[C:6]1[H:8]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],23.469426258401
[C:1]([C@:2]12[C@:3]([H:11])([C:4]1([H:12])[H:13])[C:5]2=[C:6]([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],76.89927078894459
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15],72.9194378031602
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([C:2](=[N:3])[N:6][C:5](=[N:4][H:8])[H:9])[H:7],71.46019231670441
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([N:3]=[O:4])=[C:7](/[C:5][N:6]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10],81.1921606329226
[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],40.89534047849787
